US04766127
A mixture of 270 mg of 2-(3-pyridylcarbonyl)-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene, 7 ml of triethylene glycol, 1 ml of anhydrous hydrazine and 500 mg of potassium hydroxide were heated at 160° C. for 30 minutes. The temperature was then raised to 210° C. for 1 hour. The mixture was cooled, poured into water and extracted with methylene chloride. The organic layer was dried over sodium sulfate, the solvent removed under reduced pressure and the residue chromatographed on silica gel to give 160 mg of 2-(3-pyridylmethyl)-6-(2-methyl-1,3dioxolan-2-yl)naphthalene as an oil.

reactant | 2-(3-pyridylcarbonyl)-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene | 270 mg | N1=CC(=CC=C1)C(=O)C1=CC2=CC=C(C=C2C=C1)C1(OCCO1)C | C20H17NO3
reactant | triethylene glycol | 7 ml | C(COCCOCCO)O | C6H14O4
reactant | hydrazine | 1 ml | NN | H4N2
reactant | potassium hydroxide | 500 mg | [OH-].[K+]
solvent | water | O | H2O
product | 2-(3-pyridylmethyl)-6-(2-methyl-1,3dioxolan-2-yl)naphthalene | 160 mg | N1=CC(=CC=C1)CC1=CC2=CC=C(C=C2C=C1)C1(OCCO1)C | C20H19NO2
